US06489344B1
6-{[2-({4-[2-fluoro-4-(trifluoromethyl)phenyl]-5-imidazol-2-ylpyrimidin-2-yl}amino)ethyl]amino}pyridine-3-carbonitrile was prepared from 2-fluoro-4-(trifluoromethyl)benzoyl chloride and 2-chloro-5-(cyano)pyridine using the general method for [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 2-fluoro-4-(trifluoromethyl)benzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF4O
reactant | 2-chloro-5-(cyano)pyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C20H16Cl2N8O2
product | 6-{[2-({4-[2-fluoro-4-(trifluoromethyl)phenyl]-5-imidazol-2-ylpyrimidin-2-yl}amino)ethyl]amino}pyridine-3-carbonitrile | FC1=C(C=CC(=C1)C(F)(F)F)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=CC=C(C=N1)C#N | C22H16F4N8
